US07432293B2
d) 3-(5-p-Tolyl-isoxazol-3-yl)-benzoic acid
In a 25 ml round flask, 330 mg (1.13 mmol) of 3-[5-p-tolyl-isoxazol-3-yl]-benzoic acid methyl ester is dissolved in 10 ml of dioxane and subsequently 1.69 ml of aqueous lithium hydroxide (1M, 1.69 mmol, 1.5 eq.) are added and the resulting solution stirred for 20 h at room temperature. Then, the dioxane is removed in vacuo, 10 ml of water are added and the pH adjusted to 2 with hydrochloric acid (1M). The precipitate is filtered and dried to yield the title compound as a white solid. Mass spectrum: m/z (M−H)+: 278.2

reactant | 3-[5-p-tolyl-isoxazol-3-yl]-benzoic acid methyl ester | 1.13 mmol, 330 mg | COC(C1=CC(=CC=C1)C1=NOC(=C1)C1=CC=C(C=C1)C)=O | C18H15NO3
reactant | lithium hydroxide | 1.69 mmol, 1M, 1.69 ml, 1.5 eq. | [OH-].[Li+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(5-p-Tolyl-isoxazol-3-yl)-benzoic acid | C1(=CC=C(C=C1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1)C | C17H13NO3
